US07128133B2
Perfluoropropylvinyl ether (139.0 g, 0.52 mole), potassium carbonate (19.3 g, 0.14 mole), ethylene glycol (155.5 g, 2.5 mole) and acetonitrile (200 mL) were combined in a 600 mL Parr reactor. The reactor was sealed and heated to 30° C. for 2.75 hours. The reaction mixture was filtered and then water washed four times to give 146.4 g of C3F7OCFHCF2OC2H4OH (54.2%) and (C3F7OCFHCF2OCH2)2 (43.4%). This material was combined with 179 g from a previous run consisting of 21.6% C3F7OCFHCF2OC2H4OH and 76.1% (C3F7OCFHCF2OCH2)2 and fractionated to give a 106.3 g fractionation cut boiling from 167–173° C. of C3F7OCFHCF2OC2H4OH (80.8% pure). This material along with potassium carbonate (7.3 g, 0.052 mole) and acetonitrile (200 mL) were added to a 600 mL Parr reactor. The reactor was sealed and heated to 30° C. Hexafluoropropene (48.5 g, 0.32 mole) was added to the reactor over a 30 minute period and the reactor contents were held at 30° C. an additional 40 minutes. The reactor was cooled and the contents filtered into a 1-L separatory funnel and water washed four times, dried with anhydrous sodium sulfate and filtered. The material was shaken with anhydrous HF, water washed, dried with anhydrous sodium sulfate and filtered to give 125.6 g of C3F7OCHFCF2OC2H4OCF2CFHCF3 (86.3% pure). The material was fractionated in the concentric tube unit to give 72.3 g of C3F7OCHFCF2OC2H4OCF2CFHCF3 (95.3% purity) boiling at 194° C. Structure was confirmed by gc-ms. The viscosity was 48 centistokes (48×10−6 m2/s) at −50° C. measured using a Cannon-Fenske viscometer and a Wescan Model 221 viscosity timer.

reactant | C3F7OCFHCF2OC2H4OH | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)C(F)(F)OCCO | C7H6F10O3
reactant | potassium carbonate | 0.052 mole, 7.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Hexafluoropropene | 0.32 mole, 48.5 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | C3F7OCHFCF2OC2H4OCF2CFHCF3 | 125.6 g, 86.3% | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)C(F)(F)OCCOC(F)(F)C(F)C(F)(F)F | C10H6F16O3
